US07589200B2
In like manner to preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 2-hydroxyethylamine gave N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(2-hydroxyethyl)-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.7 (bs, 1H), 7.32 (d, 1H, J=2.4 Hz), 7.05 (dd, 1H, J=2.4 and 9 Hz), 6.75 (d, 1H, J=8.9 Hz), 4.21 (s, 4H), 3.67 (t, 2H, J=5.7 Hz), 3.38 (t, 2H, J=5.4 Hz); 19F NMR (CD3OD): −48518; LCMD: ret. time: 15.54 min.; purity: 100%; MS (m/e): 307 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(2-hydroxyethyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NCCO | C14H15FN4O3
